US07825155B2
Synthesis of 3-(2-chloro-6-fluorophenyl)-1-[trans-3-(diethylamino)-cyclobutylmethyl]-4-trifluoromethyl-3-hydroxy-6-methylthio-1,3-dihydro-2H-indol-2-one
To a solution of 3-(2-chloro-6-fluorophenyl)-1-[trans-3-(diethylamino)-cyclobutylmethyl]-4-trifluoromethyl-3-triethylsilyloxy-6-iodo-1,3-dihydro-2H-indol-2-one (200 mg, 0.276 mmol) in toluene (1.0 mL) were added sodium thiomethoxide (193 mg, 2.76 mmol), 1,10-phenanthroline (5 mg, 0.028 mmol) and copper iodide (5 mg, 0.028 mmol), and the mixture was stirred at 100° C. for 3 hours. To the reaction solution was added water, and the mixture was extracted with ethyl acetate, dried over anhydrous magnesium sulfate, and then filtered, concentrated and purified by silica gel column chromatography (chloroform/methanol=10/1). To a solution of the resulting oil in tetrahydrofuran (1 mL) was added tetrabutylammonium fluoride (excess amount). The mixture was stirred at room temperature for 3 hours, and then the reaction solution was concentrated and purified by silica gel column chromatography (chloroform/methanol=10/1) to give the titled compound (122 mg) as a colorless oil.

reactant | 3-(2-chloro-6-fluorophenyl)-1-[trans-3-(diethylamino)-cyclobutylmethyl]-4-trifluoromethyl-3-triethylsilyloxy-6-iodo-1,3-dihydro-2H-indol-2-one | 0.276 mmol, 200 mg | ClC1=C(C(=CC=C1)F)C1(C(N(C2=CC(=CC(=C12)C(F)(F)F)I)C[C@@H]1C[C@H](C1)N(CC)CC)=O)O[Si](CC)(CC)CC | C30H38ClF4IN2O2Si
reactant | sodium thiomethoxide | 2.76 mmol, 193 mg | C[S-].[Na+]
reactant | 1,10-phenanthroline | 0.028 mmol, 5 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | water | O | H2O
solvent | toluene | 1.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper iodide | 0.028 mmol, 5 mg | [Cu](I)I
product | 3-(2-chloro-6-fluorophenyl)-1-[trans-3-(diethylamino)-cyclobutylmethyl]-4-trifluoromethyl-3-hydroxy-6-methylthio-1,3-dihydro-2H-indol-2-one | 122 mg | ClC1=C(C(=CC=C1)F)C1(C(N(C2=CC(=CC(=C12)C(F)(F)F)SC)C[C@@H]1C[C@H](C1)N(CC)CC)=O)O | C25H27ClF4N2O2S
